US07648987B2
8-Chloroimidazo[1,5-a]pyrazine
In an oven dried flask filled with nitrogen was added N-(3-Chloro-pyrazin-2-ylmethyl)-formamide (3.8 g, 0.022 mol) followed by MeCN (60 mL, 1 mol) and the reaction mixture was degassed 3×. POCl3 (10 mL, 0.1 mol) was added to the reaction mixture dropwise and the reaction mixture was stirred at rt for 5 min before DMF (couple of drops) was added in one portion. The reaction mixture was heated at 75° C. overnight under a consistent N2 flow. The excess of POCl3 was removed under reduced pressure and the residue was quenched with 2 N NH3 in i-PrOH at 0° C. with vigorous stirring to adjust the pH to 9. The crude reaction mixture was then charged with water and the aqueous layer was washed with DCM. The combined organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to obtain the title compound as a brown solid.

reactant | N-(3-Chloro-pyrazin-2-ylmethyl)-formamide | 0.022 mol, 3.8 g | ClC=1C(=NC=CN1)CNC=O | C6H6ClN3O
reactant | MeCN | 1 mol, 60 mL | CC#N | C2H3N
reactant | POCl3 | 0.1 mol, 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-Chloroimidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C=NC2 | C6H4ClN3
